US07790756B2
1-Benzyloxy-3-fluoro-2-methyl-4-nitrobenzene (8 g, 0.031 mol) and 10% Pd—C (1 g) were combined in methanol (100 mL) and the mixture was stirred under an H2 atmosphere (1 atm) overnight. The reaction mixture was filtered and the filtrate was concentrated in vacuo to give 4-amino-3-fluoro-2-methylphenol (4.2 g, 96% yield). 1H NMR (300 MHz, DMSO-d6) δ 8.61 (s, 1H), 6.42 (t, J=8.4 Hz, 1H), 7.11 (d, J=8.4 Hz, 1H), 4.28 (s, 2H), 1.96 (s, 3H); MS (ESI) m/z: 142.1 [M+H]+.

reactant | 1-Benzyloxy-3-fluoro-2-methyl-4-nitrobenzene | 0.031 mol, 8 g | C(C1=CC=CC=C1)OC1=C(C(=C(C=C1)[N+](=O)[O-])F)C | C14H12FNO3
solvent | methanol | 100 mL | CO | CH4O
catalyst | Pd—C | 1 g | [Pd] | Pd
product | 4-amino-3-fluoro-2-methylphenol | 4.2 g, 96% yield | NC1=C(C(=C(C=C1)O)C)F | C7H8FNO
